US06653330B2
Red-Al (0.61 ml of a 65% toluene solution, a product of Aldrich, 2.1 mmol) was added dropwise to a solution of commercially available dimethyl 2,6-naphthalenedicarboxylate (500 mg, 2.1 mmol) in anhydrous tetrahydrofuran (120 ml) cooled to −50° C. The resulting mixture was stirred at −50° C. for 1 hour and then at room temperature for 1.5 hours. To the reaction mixture were added sequentially ethyl acetate, water, 0.5N aqueous sodium potassium (+)-tartrate solution and the mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was chromatographed on a silica gel column using ethyl acetate-hexane (2:1) as the eluant to obtain methyl 6-hydroxymethyl-2-naphthalenecarboxylate (288 mg, yield 65%) as a white solid which was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl 2,6-naphthalenedicarboxylate | 2.1 mmol, 500 mg | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | sodium potassium (+)-tartrate | 0.5N | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-hydroxymethyl-2-naphthalenecarboxylate | 288 mg, yield 65% | OCC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C13H12O3
